US06043337
A solution of 4-(10-Hydroxy-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy)benzophenone (6.42 g), 2,4-dinitrochlorobenzene (2.42 g) potassium carbonate (2.76 g) and NMP (15 mL) is heated to 75-80° C. for 24 hrs. The solution is further processed as described in Example 2 to give 4-[10-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy]benzophenone.

reactant | 4-(10-Hydroxy-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy)benzophenone | 6.42 g | OCC(C(C(C(C(C(C(C(COC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C23H14F16O3
reactant | 2,4-dinitrochlorobenzene | 2.42 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-[10-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5,6,6,7,7,8,8,9,9-hexadecafluorodecyloxy]benzophenone | [N+](=O)([O-])C1=C(OCC(C(C(C(C(C(C(C(COC2=CC=C(C(=O)C3=CC=CC=C3)C=C2)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C=CC(=C1)[N+](=O)[O-] | C29H16F16N2O7
